US04348322
Palladium on carbon (5% w/w, 0.1 g.) was added to a solution of 2-[4-(4-chlorophenyl)-phenyl]-5,5-dimethyl-1,3-dioxolan-4-one (0.3 g.) in ethanol (50 ml.). The suspension was treated with hydrogen gas at 25° C. and atmospheric pressure for 1.5 hours. The catalyst was removed by filtration and the filtrate evaporated. The residue was dissolved in toluene (10 ml.) and the solution obtained was extracted with 1 M sodium hydroxide solution (10 ml.). The aqueous extracts were acidified with 2 M hydrochloric acid and extracted with toluene (2×10 ml.). By evaporation of the toluene extracts, there may thus be obtained 2-[4-(4-chlorophenyl)benzyloxy]-2-methylpropionic acid, as a waxy solid equivalent to that obtained in Example 12.

reactant | 2-[4-(4-chlorophenyl)-phenyl]-5,5-dimethyl-1,3-dioxolan-4-one | 0.3 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C1OC(C(O1)=O)(C)C | C17H15ClO3
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 0.1 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[4-(4-chlorophenyl)benzyloxy]-2-methylpropionic acid | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(C)C)C=C1 | C17H17ClO3
